US07579473B2
A solution of N-{3-fluoro-4-[(7-hydroxy-6-methoxyquinolin-4-yl)oxy]phenyl}-N′-(2-phenylethyl)ethanediamide (25.6 g, 54 mmol), N-(3-chloropropyl)morpholine hydrochloride (11.7 g, 592 mmol) and potassium carbonate (16.6 g, 120 mmol) in DMF (300 mL) was heated to 80° C. overnight. Upon cooling, a majority of the DMF (250 mL) was removed on a rotary evaporator, 5% aqueous LiCl (300 mL) was added and the mixture was sonicated at room temperature. The solid was filtered, suspended in 1N HCl and washed with ethyl acetate (2×300 mL). The solution was adjusted to pH 14 using 2N sodium hydroxide and subsequently extracted with dichloromethane (3×200 mL). The organic layer was dried over sodium sulfate, filtered and evaporated to give N-(3-fluoro-4-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinolin-4-yl]oxy}phenyl)-N′-(2-phenylethyl)ethanediamide as a yellow solid (24 g, 74%). 1H NMR (400 MHz, CDCl3): δ 9.37 (s, 1H), 8.46 (d, 1H), 7.81 (dd, 1H), 7.57 (t, 1H), 7.53 (s, 1H), 7.42 (s, 2H), 7.34-7.20 (m, 6H), 6.39 (d, 1H), 4.27 (t, 2H), 4.03 (s, 3H), 3.71 (m, 4H), 3.65 (q, 2H), 2.91 (t, 2H), 2.56 (br s, 4H), 2.13 (m, 2H); 13C NMR (100 MHz, d6-DMSO): δ 160.1, 160.0, 159.5, 155.2, 152.7, 152.6, 150.2, 149.5, 147.1, 139.7, 137.3, 137.1, 129.3, 129.1, 126.9, 124.8, 117.9, 115.1, 109.2, 102.7, 99.6, 67.4, 66.9, 56.5, 55.5, 54.1, 41.3, 35.2, 26.4; IR (cm−1): 1655, 1506, 1483, 1431, 1350, 1302, 1248, 1221, 1176, 1119, 864, 843, 804, 741, 700; LC/MS (M+H=603).

reactant | N-{3-fluoro-4-[(7-hydroxy-6-methoxyquinolin-4-yl)oxy]phenyl}-N′-(2-phenylethyl)ethanediamide | 54 mmol, 25.6 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(C(=O)NCCC1=CC=CC=C1)=O | C26H22FN3O5
reactant | N-(3-chloropropyl)morpholine hydrochloride | 592 mmol, 11.7 g | Cl.ClCCCN1CCOCC1
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | N-(3-fluoro-4-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinolin-4-yl]oxy}phenyl)-N′-(2-phenylethyl)ethanediamide | 24 g, 74% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)NC(C(=O)NCCC1=CC=CC=C1)=O | C33H35FN4O6
